US06730684B1
b) 2-[2-(4-Methoxyphenyl)ethyl]nicotinic Acid
10% Pd/C (2.21 g, 2.08 mmole) was added to a solution of 2-[2-(4-methoxyphenyl)ethenyl]nicotinic acid (5.31 g, 20.80 mmole) and 1.0 N NaOH (23 mL, 23 mmole) in H2O (81 mL), and the mixture was shaken at RT under H2 (50 psi) on a Parr apparatus. After 4.5 hr, the mixture was filtered through celite®, and the filtrate was acidified to pH 5 with glacial acetic acid. The solid was collected by suction filtration, washed with H2O, and dried in high vacuum at 45° C. to afford the title compound (4.50 g, 84%) as an off-white solid: 1H NMR (400 MHz, DMSO-d6) δ 8.65 (dd. J=4.7, 1.7 Hz, 1H), 8.15 (dd, J=7.8, 1.7 Hz, 1H), 7.35 (dd, J=7.8, 4.7 Hz, 1H), 7.13 (d, J=8.5 Hz, 2H), 6.84 (d, J=8.5 Hz, 2H), 3.71 (s, 3H), 3.25-3.40 (m, 2H), 2.82-2.93 (m, 2H).

reactant | 2-[2-(4-methoxyphenyl)ethenyl]nicotinic acid | 20.80 mmole, 5.31 g | COC1=CC=C(C=C1)C=CC1=C(C(=O)O)C=CC=N1 | C15H13NO3
reactant | NaOH | 23 mmole, 1.0 N, 23 mL | [OH-].[Na+]
solvent | H2O | 81 mL | O | H2O
catalyst | Pd/C | 2.08 mmole, 2.21 g | [Pd] | Pd
product | 2-[2-(4-Methoxyphenyl)ethyl]nicotinic Acid | 4.50 g, 84% | COC1=CC=C(C=C1)CCC1=C(C(=O)O)C=CC=N1 | C15H15NO3
